US04863920
3.74 g (8.95 mmol) of 7-bromo-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was stirred at the boiling temperature for 1.5 hours with 0.80 g (9.5 mmol) of 2-methyl-3-butyn-2-ol, 70 mg of bis-(triphenylphosphine)-palladium(II) dichloride and 10 mg of copper(I) iodide in 30 ml of diethylamine. The reaction mixture was evaporated and the residue was chromatographed on silica gel while eluting with ethyl acetate. After recrystallization of the residue, which remains behind upon evaporation of the eluate, from ethyl acetate there was obtained 7-bromo-4,5-dihydro-3-(3-hydroxy-3-methyl-1-butynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 207°-208°.

reactant | 7-bromo-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 8.95 mmol, 3.74 g | BrC1=CC=CC2=C1C(N(CC=1N2C=NC1I)C)=O | C12H9BrIN3O
reactant | 2-methyl-3-butyn-2-ol | 9.5 mmol, 0.80 g | CC(C)(C#C)O | C5H8O
solvent | diethylamine | 30 ml | C(C)NCC | C4H11N
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 10 mg | [Cu]I
product | 7-bromo-4,5-dihydro-3-(3-hydroxy-3-methyl-1-butynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | BrC1=CC=CC2=C1C(N(CC=1N2C=NC1C#CC(C)(C)O)C)=O | C17H16BrN3O2
